US08461328B2
A mixture of 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (0.92 g, 2.7 mmol), bicyclo[2.2.1]hept-2-ylamine (0.36 ml, 3.0 mmol), diisopropylethylamine (0.62 ml, 3.5 mmol) in propan-2-ol (12 ml) was heated at 110° C. in a microwave reactor for 20 min. The mixture was then cooled to 25° C. and was partitioned between water (200 ml) and EtOAc (2×200 ml). The combined organic layers were dried over MgSO4, filtered, and the filtrate was concentrated under reduced pressure. Purification of the resulting yellow oil by column chromatography on silica gel (gradient: 0 to 60% EtOAc in heptanes) afforded (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-bicyclo[2.2.1]hept-2-yl-amine (1.1 g, 98%) as a yellow solid. TLC: 50% EtOAc in heptanes; Rf=0.66). This material was used in the next step below without additional characterization.

reactant | 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 2.7 mmol, 0.92 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | bicyclo[2.2.1]hept-2-ylamine | 3.0 mmol, 0.36 ml | C12C(CC(CC1)C2)N | C7H13N
reactant | diisopropylethylamine | 3.5 mmol, 0.62 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propan-2-ol | 12 ml | CC(C)O | C3H8O
product | (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-bicyclo[2.2.1]hept-2-yl-amine | 1.1 g, 98% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2C1CCC(C2)C1)[N+](=O)[O-] | C20H20N4O4S
